US05728724
[2-(2-Thienyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone (1.97 g, 4.5 mmol) in THF (15 mL) was reacted with a 0.60M THF solution of 2-thienylmagnesium bromide (31.8 mL, 13.5 mmol) (prepared from 2-bromothiophene, n-butyllithium, and magnesium bromide in ether) at ambient temperature. Purification by chromatography (silica gel, 1:1 hexane:ethyl acetate, 10% methanol, 0.1% ammonium hydroxide) gave 1.55 g (72%) of the title compound as a yellow foam: 1H NMR (300 MHz) δ1.3-1.4 (m, 2H), 1.4-1.6 (m, 4H), 2.42 (m, 4H), 2.66 (t, J=5.8 Hz, 2H), 3.88 (s, 3H), 4.12 (t, J=5.9 Hz, 2H), 6.96 (m, 4H), 7.16 (d, J=2.5 Hz, 1H), 7.35 (d, J=8.9 Hz, 1H), 7.43 (d, J=5.0 Hz, 1H), 7.55 (d, J=2.2 Hz, 1H), 7.77 (d, J=8.8 Hz, 2H); 13C NMR (75 MHz, CDCl3) δ24.1, 25.9, 55.1, 55.6, 57.7, 66.3, 104.4, 114.4, 115.0, 124.2, 127.1, 127.7, 127.7, 130.3, 131.5, 132.3, 133.6, 134.2, 135.0, 140.0, 158.0, 163.4, 192.8; IR (CHCl3) 1649, 1599 cm-1 ; MS (FD+) m/e 477 (M+); Anal. calc'd. for C27H27NO3S2 : C, 67.89; H, 5.70; N, 2.93. Found: C, 68.13; H, 5.89; N, 2.78.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 4.5 mmol, 1.97 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 2-thienylmagnesium bromide | 13.5 mmol, 31.8 mL | S1C(=CC=C1)[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 0.60M | C1CCOC1 | C4H8O
product | [2-(2-Thienyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 1.55 g, 72% | S1C(=CC=C1)C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC | C27H27NO3S2
